US06410534B1
Step B: 7-[(2-Methoxyethoxy)methoxy]-1-(methylamino)-naphthalene
A mixture of 1-(tert-butoxycarbonylamino)-7-[(2-methoxyethoxy)methoxy]naphthalene, as described above in Step A, (1.59 g, 4.58 mmol) and LAH (11.4 mL of a 1.0 M solution in THF, 11.4 mmol) in dry THF (100 mL) was heated to 65° C., under argon. After 70 min, the reaction mixture was cooled to ambient temperature and quenched with saturated aqueous NH4Cl (5 mL). Most of the THF was removed by concentration under reduced pressure, and the residual mixture was partitioned between water (500 mL) and CH2Cl2 (250 mL). The aqueous layer was extracted further with CH2Cl2 (250 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane −25% EtOAc to yield the titled product.

reactant | 1-(tert-butoxycarbonylamino)-7-[(2-methoxyethoxy)methoxy]naphthalene | C(C)(C)(C)OC(=O)NC1=CC=CC2=CC=C(C=C12)OCOCCOC | C19H25NO5
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-[(2-Methoxyethoxy)methoxy]-1-(methylamino)-naphthalene | COCCOCOC1=CC=C2C=CC=C(C2=C1)NC | C15H19NO3
